US07605265B2
(R)—N-(2-Benzyloxy-5,6,7,8-tetrahydro-quinolin-5-yl)-N′-(6-chloro-1,2,3,4-tetrahydro-acridin-9-yl)-heptane-1,7-diamine:
A solution of (7-bromo-heptyl)-(6-chloro-1,2,3,4-tetrahydro-acridin-9-yl)-amine (180 mg, 0.43 mmoL) and (S)-2-benzyloxy-5,6,7,8-tetrahydro-quinolin-5-ylamine (108 mg, 0.43 mmoL) in dried N,N-dimethylformamide (2.1 ml) was heated up to 120 degree Celsius under nitrogen for 5 h. After cooling to room temperature, the reaction mixture was poured into icy water. The mixture was extracted with ethyl acetate. The combined ethyl acetate was dried, filtered and concentrated. The resulting crude product was purified by column chromatography on silica gel using hexane/ethyl acetate/triethyl amine (8/2/1) to give the desired product (80 mg, 0.14 mmoL) in 33% yield.

reactant | (7-bromo-heptyl)-(6-chloro-1,2,3,4-tetrahydro-acridin-9-yl)-amine | 180 mg | BrCCCCCCCNC=1C2=CC=C(C=C2N=C2CCCCC12)Cl | C20H26BrClN2
reactant | (S)-2-benzyloxy-5,6,7,8-tetrahydro-quinolin-5-ylamine | 108 mg | C(C1=CC=CC=C1)OC1=NC=2CCC[C@@H](C2C=C1)N | C16H18N2O
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2.1 ml | CN(C=O)C | C3H7NO
product | (R)—N-(2-Benzyloxy-5,6,7,8-tetrahydro-quinolin-5-yl)-N′-(6-chloro-1,2,3,4-tetrahydro-acridin-9-yl)-heptane-1,7-diamine | 80 mg, 33% yield | C(C1=CC=CC=C1)OC1=NC=2CCC[C@H](C2C=C1)NCCCCCCCNC=1C2=CC=C(C=C2N=C2CCCCC12)Cl | C36H43ClN4O
